US07227020B2
(a) N-{3-(6-(4-tert-Butylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl)propyl}-N′n-propyl urea
A solution of 3-(6-(4-tert-butylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl)propylamine (0.0324 mmol). The [Example 24] in tetrahydrofuran (2 mL) was treated with n-propyl-isocyanate (0.0324 mmol). The solution was stirred at room temperature for 12 hours and then treated with water (3 mL). The resulting precipitate was filtered, then washed with water and then dried under vacuum at 50° C. to give the title compound as a beige solid. MS: 394 (MH+). HPLC (Method C): RT=3.25 minutes.

reactant | 3-(6-(4-tert-butylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl)propylamine | 0.0324 mmol | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=2C(=NC=CN2)N1)CCCN | C19H24N4
reactant | n-propyl-isocyanate | 0.0324 mmol | C(CC)N=C=O | C4H7NO
reactant | water | 3 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-{3-(6-(4-tert-Butylphenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl)propyl}-N′n-propyl urea | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=2C(=NC=CN2)N1)CCCNC(=O)NCCC | C23H31N5O
